US08003785B2
To a mixture of 0.70 g (3.23 mmole) of 2-(4-amino-piperidin-1-yl)-ethanol, 0.92 g of 4-amino-3-methoxy-benzoic acid benzotriazol-1-yl ester, and 5 mL of dimethylformamide was added 1.63 g (16.1 mmole) of triethylamine. The mixture was stirred overnight, then taken up in 150 mL of dichloromethane and washed twice with saturated aqueous sodium bicarbonate, once with water, once with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 100:0-80:20) to give 0.35 g of 4-amino-N-[1-(2-hydroxy-ethyl)-piperidin-4-yl]-3-methoxy-benzamide.

reactant | 2-(4-amino-piperidin-1-yl)-ethanol | 3.23 mmole, 0.70 g | NC1CCN(CC1)CCO | C7H16N2O
reactant | 4-amino-3-methoxy-benzoic acid benzotriazol-1-yl ester | 0.92 g | N1(N=NC2=C1C=CC=C2)OC(C2=CC(=C(C=C2)N)OC)=O | C14H12N4O3
reactant | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | triethylamine | 16.1 mmole, 1.63 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 4-amino-N-[1-(2-hydroxy-ethyl)-piperidin-4-yl]-3-methoxy-benzamide | 0.35 g | NC1=C(C=C(C(=O)NC2CCN(CC2)CCO)C=C1)OC | C15H23N3O3
